US06627767B2
2,3-dichloro-4-formylphenyl Trifluoromethanesulfonate
A solution of 2,3-dichloro-4-hydroxybenzaldehyde (9.1 g, 48 mmol), prepared as described in J. Med. Chem. 1994, 19, 534), in pyridine (45 mL) at 0° C. was treated portionwise with trifluoromethanesulfonic anhydride (15.6 g, 0.055 mol), warmed to room temperature, stirred for 1 hour, and poured into a mixture of ice water, concentrated HCl, and diethyl ether. The organic phase was dried (Na2SO4), filtered, and concentrated. The concentrate was treated with warm heptane, filtered, and concentrated to provide the desired product.

reactant | 2,3-dichloro-4-hydroxybenzaldehyde | 48 mmol, 9.1 g | ClC1=C(C=O)C=CC(=C1Cl)O | C7H4Cl2O2
reactant | trifluoromethanesulfonic anhydride | 0.055 mol, 15.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
product | 2,3-dichloro-4-formylphenyl Trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C(=C(C=C1)C=O)Cl)Cl)(F)F | C8H3Cl2F3O4S
